US04022897
A mixture of 31.5 g of ethyl butyrylacetate, 11.0 g of 2-amino-3-pyridinol, 125 ml of ethyleneglycol monomethyl ether, and 1.0 g of p-toluenesulfonic acid is stirred and heated under reflux for 21 hours and then allowed to cool. The product that crystallizes is filtered and dried to give 10.1 g of 9-hydroxy-2-propyl-4H-pyrido[1,2-a]pyrimidin-4-one, m.p. 95°-96°. The filtrate is concentrated to one-half volume to give 5.8 g of solid, m.p. 92°-94°. This is extracted with two 50 ml portions of boiling diisopropyl ether to leave behind 1.0 g of an insoluble solid. From the diisopropyl ether extracts there is obtained 3.8 g of additional product, m.p. 95°-96°. The 1.0 g of solid insoluble in diisopropyl ether is recrystallized from acetonitrile to give 0.60 g of 9-hydroxy-2-propyl-4 H-pyrido[1,2-a]pyrimidin-4-one, salt with p-toluenesulfonic acid, m.p. 202° -204°. The same salt is prepared by mixing rapidly hot solutions of 1.40 g of the product, m.p. 95°-96° in 15 ml of acetonitrile and 1.30 g of p-toluenesulfonic acid in 15 ml of acetonitrile. A clear solution forms briefly and then the salt crystallizes. The yield of salt, m.p. 202°-204°, is 2.16 g.

reactant | ethyl butyrylacetate | 31.5 g | C(CCC)(=O)CC(=O)OCC | C8H14O3
reactant | 2-amino-3-pyridinol | 11.0 g | NC1=NC=CC=C1O | C5H6N2O
reactant | p-toluenesulfonic acid | 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethyleneglycol monomethyl ether | 125 ml | COCCO | C3H8O2
product | 9-hydroxy-2-propyl-4H-pyrido[1,2-a]pyrimidin-4-one | 10.1 g | OC1=CC=CN2C1=NC(=CC2=O)CCC | C11H12N2O2
